US04843087
A suspension of 10.00 g of 4-[5-(3-methyl-5-isoxazolyl)pentyloxy]benzaldehyde, 10.0 g of potassium carbonate and 7.14 g of tosylmethyl isocyanide (4-CH3C6H4 -SO2CH2NC) in 90 ml of methanol was heated at reflux for 3 hours. The reaction mixture was concentrated in vacuo, and the residue was extracted with methylene dichloride. The extract was washed with water, the product isolated and recrystallized from isopropyl acetate-hexane. Further purification by flash filtration through a silica gel pad, eluting with isopropyl acetate, and recrystallization from isopropyl acetate-hexane gave 5.43 g (48%) of 3-methyl-5-{5-[4-(5-oxazolyl)phenoxy]pentyl}isoxazole, yellow powder, m.p. 91°-93° C.

reactant | 4-[5-(3-methyl-5-isoxazolyl)pentyloxy]benzaldehyde | 10.00 g | CC1=NOC(=C1)CCCCCOC1=CC=C(C=O)C=C1 | C16H19NO3
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | tosylmethyl isocyanide | 7.14 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
solvent | methanol | 90 ml | CO | CH4O
product | 3-methyl-5-{5-[4-(5-oxazolyl)phenoxy]pentyl}isoxazole | 5.43 g, 48% | CC1=NOC(=C1)CCCCCOC1=CC=C(C=C1)C1=CN=CO1 | C18H20N2O3
